US04783459
2-Anilino-4,6-dimethylpyrimidine (10 g) was added to a suspension of sodium hydride in oil (1.65 g of an 80% suspension) in dry THF (100 ml) and the mixture was heated under reflux until evolution of hydrogen ceased. Phenyl isothiocyanate (6.6 ml) was added slowly to the clear solution. The mixture was then stirred at room temperature for 2 hours. The solid was collected, washed with ether and dried in vacuo to give crude N-(4,6-dimethylpyrimidin-2-yl)-N,N'-diphenylisothiourea sodium salt. To a stirred solution of this product (7.2 g) in dimethyl sulphoxide (10 ml) was added a solution of methyl iodide (1.3 ml) in dimethyl sulphoxide (10 ml). The mixture was stirred at room temperature for 3 hours and then concentrated. The residue was treated with water and then extracted with dichloromethane. The extract was worked up in conventional manner to give N-(4,6-dimethylpyrimidin-2-yl)-S-methyl-N,N'-diphenylisothiourea, m.p. 101°-3°. (Compound 7).

reactant | 2-Anilino-4,6-dimethylpyrimidine | 10 g | N(C1=CC=CC=C1)C1=NC(=CC(=N1)C)C | C12H13N3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | Phenyl isothiocyanate | 6.6 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | methyl iodide | 1.3 ml | CI | CH3I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
product | N-(4,6-dimethylpyrimidin-2-yl)-S-methyl-N,N'-diphenylisothiourea | CC1=NC(=NC(=C1)C)N(C(SC)=NC1=CC=CC=C1)C1=CC=CC=C1 | C20H20N4S
